US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (10.00 g, 26.10 mmol) with 2-(trifluoromethy)phenylboronic acid (7.43 g, 39.14 mmol), dichlorobis(tri-o-tolylphosphine)palladium(II) (0.786 g, 1.3 mmol), and potassium carbonate (9.01 g, 65.19 mmol) generally according to the procedure described for Intermediate 37 afforded 8.46 g (72%) of (±)-{7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate as a tan solid. mp 116-118° C.; Anal. calcd. for C23H19F3O4S: C, 61.6; H, 4.27. Found: C, 61.91; H, 4.23.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 26.10 mmol, 10.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 2-(trifluoromethy)phenylboronic acid | 39.14 mmol, 7.43 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 65.19 mmol, 9.01 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)palladium(II) | 1.3 mmol, 0.786 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-{7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate | 8.46 g, 72% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)C(F)(F)F | C23H19F3O4S
